US04241052
A mixture of 5.3 g of 1-(2-chloroethyl)-1-nitroso-3-(2-propenyl)-3-(L-arabinopyranosyl)urea, 5.9 g of meta-chloroperbenzoic acid, 50 ml of methylene chloride and 50 ml of benzene is stirred at room temperature for 3 hours. After the reaction, the mixture is condensed under reduced pressure. The residue obtained is washed with ether and then purified by silica gel chromatography (Solvent: ethyl acetate). 0.9 g of 1-(2-chloroethyl)-1-nitroso-3-(oxiran-2-yl-methyl)-3-(L-arabinopyranosyl)urea is thereby obtained as yellow caramel.

reactant | 1-(2-chloroethyl)-1-nitroso-3-(2-propenyl)-3-(L-arabinopyranosyl)urea | 5.3 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC=C)N=O | C11H18ClN3O6
reactant | meta-chloroperbenzoic acid | 5.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1-(2-chloroethyl)-1-nitroso-3-(oxiran-2-yl-methyl)-3-(L-arabinopyranosyl)urea | 0.9 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC1OC1)N=O | C11H18ClN3O7
